US07470723B2
To a stirred solution of 1-(3-ethoxy-4-methoxy-phenyl)-1-(3-nitro-4-methoxy-phenyl)-ethene (0.9 g, 2.8 mmol) in ethyl acetate (10 mL) and ethanol (20 mL) was added tin (II) chloride dihydrate (3.5 g, 15.4 mmol). The mixture was heated at 70° C. for 1 hr. The mixture was poured into ice water (100 mL) and basified with 10 N sodium hydroxide to pH=10. The mixture was extracted with ethyl acetate (5×35 mL). The combined organic layers were washed water (60 mL), brine (60 mL) and dried (MgSO4). Removal of solvent and chromatography (silica gel) gave 5-[1-(3-ethoxy-4-methoxy-phenyl) -vinyl]-2-methoxy-phenylamine as a solid (0.4 g, 48% yield): mp 91-93° C.; 1H NMR (CDCl3) δ 1.43 (t, J=7.1 Hz, 3H, CH3), 3.75 (b, 2H, NH2), 3.86 (s, 3H, OCH3), 3.88 (s, 3H, OCH3), 4.06 (q, J=7.1 Hz, 2H, OCH2), 5.28 (d, J=6.5 Hz, 2H, CH2), 6.91-6.72 (m, 6H, CH); 13C NMR (CDCl3) δ 14.76, 55.50, 55.94, 64.26, 109.85, 110.91, 111.53, 113.12, 115.03, 118.67, 120.92, 134.59, 134.73, 135.58, 147.14, 147.69, 148.97, 149.59; Anal. Calcd for C18H21NO3: C, 72.22; H, 7.07; N, 4.68. Found: C, 72.16; H, 7.10; N, 4.74.

reactant | 1-(3-ethoxy-4-methoxy-phenyl)-1-(3-nitro-4-methoxy-phenyl)-ethene | 2.8 mmol, 0.9 g | C(C)OC=1C=C(C=CC1OC)C(=C)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C18H19NO5
reactant | tin (II) chloride dihydrate | 15.4 mmol, 3.5 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-[1-(3-ethoxy-4-methoxy-phenyl) -vinyl]-2-methoxy-phenylamine | 0.4 g, 48% yield | C(C)OC=1C=C(C=CC1OC)C(=C)C=1C=CC(=C(C1)N)OC | C18H21NO3
